US08466114B2
To a stirred solution of 2-bromo-5-iodobenzoic acid (25.0 g, 76.48 mmol) in dichloromethane (200 mL) was added oxalylchloride (10.3 mL, 114.74 mmol) at 0° C. followed by DMF (0.9 mL). After complete addition, the reaction mixture was stirred at room temperature for 3 h. Volatiles were evaporated under reduced pressure to furnish 2-bromo-5-iodo-benzoyl chloride (26.4 g). The crude product was used for the next step immediately.

reactant | 2-bromo-5-iodobenzoic acid | 76.48 mmol, 25.0 g | BrC1=C(C(=O)O)C=C(C=C1)I | C7H4BrIO2
reactant | oxalylchloride | 114.74 mmol, 10.3 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 0.9 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-bromo-5-iodo-benzoyl chloride | 26.4 g | BrC1=C(C(=O)Cl)C=C(C=C1)I | C7H3BrClIO
